US07902203B2
1-butyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid
To a solution of 2-hydroxy-nicotinic acid (0.50 g, 3.59 mmol) and potassium -hydroxide (0.40 g, 7.13 mmol) in 4:1 methanol: water (6 mL) at room temperature, was added 1-iodobutane (0.74 mL, 6.42 mmol). This solution was heated at 60° C. for 30 minutes, then cooled to room temperature and diluted with water and 1N HCl. The resulting solid was filtered and dried to give the title compound (0.27 g, 39%). MS (DCI/NH3) m/z 196 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 0.91 (m, 3 H) 1.30 (m, 2 H) 1.69 (m, 2 H) 4.10 (m, 2 H) 6.73 (m, 1 H) 8.27 (dd, J=6.62, 1.84 Hz, 1 H) 8.38 (dd, J=7.35, 2.21 Hz, 1 H) 14.68 (s, 1 H).

reactant | 2-hydroxy-nicotinic acid | 3.59 mmol, 0.50 g | OC1=C(C(=O)O)C=CC=N1 | C6H5NO3
reactant | potassium -hydroxide | 7.13 mmol, 0.40 g | [OH-].[K+]
reactant | methanol | CO | CH4O
reactant | 1-iodobutane | 6.42 mmol, 0.74 mL | ICCCC | C4H9I
solvent | water | O | H2O
solvent | HCl | 1N | Cl | ClH
solvent | water | 6 mL | O | H2O
product | 1-butyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.27 g, 39% | C(CCC)N1C(C(=CC=C1)C(=O)O)=O | C10H13NO3
